US06190650B1
Trifluoroacetic acid (4 ml) was added to a suspension of BHAlyslys2lys4lys8DBL16 (0.73 g; 0.1 mmol) in dry dichloromethane (4 ml) under nitrogen. A vigorous evolution of gas was observed for a short time and the resulting solution was stirred at room temperature for two hours and then concentrated. The residual syrup was dissolved in water (5 ml), the solution passed through a column of Amberlite IRA-401(OH) and the filtrate concentrated to give BHAlyslys2lys4lys8lys16 as a viscous oil (0.49 g). The oil was redissolved in water (5 ml) and N,N-dimethyl-N-allylamine buffer (pH 9.5; 3 ml) added. Solid sodium 4-sulfophenylisothiocyanate monohydrate (1.30 g; 5.1 mmol) was then added and the resulting solution heated under nitrogen at 53° for two hours and then cooled. The solution was concentrated and the brownish solid residue purified by gel filtration (Sephadex LH20; water). The pure fractions were combined, passed through a column of Amberlite IR 120(Na) and freeze dried to give the sodium 4-sulfophenylthiourea terminated BHAlyslys2lys4lys8lys16 dendrimer as a fluffy white solid (374 mg). 1H nmr (D2O): δ 1.40; 1.72; 3.08; 3.42; 4.24; 4.60; 7.30; 7.40 (d, J=9 Hz); 7.78 (d, J=9 Hz). 13C nmr (D2O): δ 27.3; 32.5; 35.9; 43.7; 48.9; 58.6; 63.3; 128.8; 131.0; 143.7; 144.7; 145.1; 177.7; 178.1; 183.8; 185.2.

reactant | N,N-dimethyl-N-allylamine | 3 ml, pH 9.5 | CN(CC=C)C | C5H11N
reactant | sodium 4-sulfophenylisothiocyanate monohydrate | 5.1 mmol, 1.30 g | O.S(=O)(=O)(O)C1=CC=C(C=C1)N=C=S.[Na]
solvent | water | 5 ml | O | H2O
product | sodium 4-sulfophenylthiourea | S(=O)(=O)(O)C1=CC=C(C=C1)NC(=S)N.[Na] | InChI=1S/C7H8N2O3S2.Na/c8-7(13)9-5-1-3-6(4-2-5)14(10,11)12;/h1-4H,(H3,8,9,13)(H,10,11,12);
